US08835426B2
4-(2-((1-adamantylmethyl)amino)-1-hydroxyethyl)phenol (50 mg, 0.166 mmol) and Et3N (34 mg, 0.33 mmol) were dissolved in dry CH2Cl2 (1 mL) and the solution was cooled to 0° C. Triphosgene (19.7 mg, 0.066 mmol) in dry CH2Cl2 (1 mL) was added dropwise slowly. The mixture was allowed to warm to rt and stirred overnight. The solution was concentrated to give a residue, which was purified by preparative HPLC to afford 3-adamantan-1-ylmethyl-5-(4-hydroxy-phenyl)-oxazolidin-2-one (2.40 mg, 4.4%). 1H NMR: (CDCl3, 400 MHz): δ=1.54 (s, 6H), 1.58-1.65 (d, 3H), 1.66-1.75 (d, 3H), 1.99 (s, 3H), 2.80-2.87 (d, 1H), 3.02-3.08 (d, 1H), 3.50-3.56 (t, 1H), 3.93-4.00 (t, 1H), 5.40-5.48 (t, 1H), 6.82-6.90 (d, 1H), 7.20-7.26 (d, 1H); MS m/z=328

reactant | 4-(2-((1-adamantylmethyl)amino)-1-hydroxyethyl)phenol | 0.166 mmol, 50 mg | C12(CC3CC(CC(C1)C3)C2)CNCC(O)C2=CC=C(C=C2)O | C19H27NO2
reactant | Et3N | 0.33 mmol, 34 mg | CCN(CC)CC | C6H15N
reactant | Triphosgene | 0.066 mmol, 19.7 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-adamantan-1-ylmethyl-5-(4-hydroxy-phenyl)-oxazolidin-2-one | 2.40 mg, 4.4% | C12(CC3CC(CC(C1)C3)C2)CN2C(OC(C2)C2=CC=C(C=C2)O)=O | C20H25NO3
